US04824856
2-Mercaptobenzimidazole (4.73 g) was dissolved in 150 ml of ethanol, and to the solution was added 6.18 g of 2-dimethylaminobenzyl chloride hydrochloride. The mixture was stirred at room temperature for 30 minutes. Precipitated crystals were collected by filtration. A saturated aqueous NaHCO3 solution was added to the crystals, and the resulting mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was recrystallized from a mixture of chloroform and acetonitrile to obtain 5.39 g of 2-(2-dimethylaminobenzylthio)benzimidazole as a colorless crystalline product (m.p. 164° C.).

reactant | 2-Mercaptobenzimidazole | 4.73 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-dimethylaminobenzyl chloride hydrochloride | 6.18 g | Cl.CN(C1=C(CCl)C=CC=C1)C
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(2-dimethylaminobenzylthio)benzimidazole | 5.39 g | CN(C1=C(CSC=2NC3=C(N2)C=CC=C3)C=CC=C1)C | C16H17N3S
